US09126940B2
The title compound was prepared by these procedures using (1E,4E)-ethyl 2-amino-8-(benzyloxy)-3H-benzo[b]azepine-4-carboxylate and dipropylamine. Preparation of (1E,4E)-ethyl 2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylate: To a mixture of (1E,4E)-ethyl 2-amino-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylate (9.60 g, 23.8 mmol) in CH2Cl2 (100 mL) was added Boc2O (5.97 mg, 27.4 mmol) at room temperature. The reaction mixture was stirred for 3 days. The resulting mixture was washed with saturated aq NaHCO3 and brine. The organic layer was separated and dried over MgSO4, filtered, and concentrated under reduced pressure to give 12.7 g of the crude (1E,4E)-ethyl 2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylate that was used directly without further purification. Preparation of (1E,4E)-2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylic acid: To a solution of (1E,4E)-ethyl 2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylate (12.0 g, 23.8 mmol) in THF-EtOH (60 mL/60 mL) was added 4 N aq. LiOH (23.8 mL, 95.3 mmol) at 0° C. The reaction mixture was warmed to room temperature and stirred for 21 h. Additional 6 mL of 4 N aq LiOH was added twice after 21 h and 24 h. After stirring for additional 6 h, the resulting mixture was concentrated under reduced pressure to give the crude material that was diluted with water (50 mL) and acidified to a pH of ˜3.5 with 1 N aq phosphoric acid (˜450 mL). ˜250 mL of CH2Cl2 was added during acidification to extract the crude product out of the sticky suspension. The solids formed during acidification were filtered off using a glass filter packed with Celite. The aqueous layer was separated and extracted with CH2Cl2 (3×100 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressures to give the crude (1E,4E)-2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylic acid that was used directly without further purification. Preparation of tert-butyl (1E,4E)-4-(propylcarbamoyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepin-2-ylcarbamate: A mixture of (1E,4E)-2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylic acid (200 mg, 0.42 mmol), HOBt (114 mg, 0.84 mmol), and EDCI (161 mg, 0.84 mmol) in DMF (5 mL) was stirred for 1 h at room temperature. To this mixture was added triethylamine (0.12 mL, 0.84 mmol) and propan-1-amine (0.043 mL, 0.53 mmol) at room temperature. The resulting solution was stirred for additional 2 h. The reaction mixture was diluted with EtOAc (5 mL) and washed with saturated aq NH4Cl. The aqueous layer was separated and extracted with EtOAc (3×5 mL). The combined organic layers were washed with brine (5 mL), saturated aq NaHCO3 (5 mL), and brine (5 mL). The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude tert-butyl (1E,4E)-4-(propylcarbamoyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepin-2-ylcarbamate that was used directly without further purification. Preparation of (1E,4E)-2-amino-N-(2-amino-2-oxoethyl)-N-propyl-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxamide: A solution of the crude tert-butyl (1E,4E)-4-((2-amino-2-oxoethyl)(propyl)carbamoyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepin-2-ylcarbamate in anhydrous CH2Cl2 (15 mL) was bubbled with HCl (gas) for 4 h at 0° C. The resulting mixture was warmed to room temperature and stirred until the reaction was complete. To this mixture was added saturated NaHCO3 at 0° C. The aqueous layer was separated and extracted with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered, and concentrated under reduced pressure to give the crude compound that was purified by silica gel flash column chromatography (MeOH:CH2Cl2=1:50).

reactant | (1E,4E)-ethyl 2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylate | 23.8 mmol, 12.0 g | C(C)(C)(C)OC(=O)N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C2=CC=C(C=C2)C(=O)N2CCCC2)\C(=O)OCC | C29H33N3O5
reactant | LiOH | 95.3 mmol, 4 N, 23.8 mL | [Li+].[OH-]
reactant | LiOH | 4 N, 6 mL | [Li+].[OH-]
reactant | phosphoric acid | 1 N, ˜450 mL | P(O)(O)(O)=O | H3O4P
reactant | CH2Cl2 | ˜250 mL | C(Cl)Cl | CH2Cl2
solvent | THF EtOH | 60 mL | C1CCOC1.CCO
solvent | water | 50 mL | O | H2O
product | (1E,4E)-2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylic acid | C(C)(C)(C)OC(=O)N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C2=CC=C(C=C2)C(=O)N2CCCC2)\C(=O)O | C27H29N3O5
